US20010044538A1
A mixture of 2-carboxy-3-(4-fluorophenyl)-furo[3,2-b]pyridine (1.8 g, 7 mmol), copper metal (0.56 g, 8.81 mmol) in quinoline (10 ml) was heated at reflux. After 45 min., the reaction was cooled to room temperature and the product was extracted into water. The aqueous layer was acidified with hydrochloric acid and acetic acid. The product was filtered and dissolved in ether. The ether layer was dried over sodium sulfate and concentrated in vacuo. Purification by flash chromatography using ethyl acetate-hexanes (1:9) as the eluant gave 3-(4-fluorophenyl)-furo[3,2-b]pyridine as a solid (0.85 g).

reactant | 2-carboxy-3-(4-fluorophenyl)-furo[3,2-b]pyridine | 7 mmol, 1.8 g | C(=O)(O)C1=C(C2=NC=CC=C2O1)C1=CC=C(C=C1)F | C14H8FNO3
solvent | quinoline | 10 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 8.81 mmol, 0.56 g | [Cu] | Cu
product | 3-(4-fluorophenyl)-furo[3,2-b]pyridine | 0.85 g | FC1=CC=C(C=C1)C1=COC=2C1=NC=CC2 | C13H8FNO
